US08372874B2
Activation of 0.35 g (1.61 mmol) of 2-methyl-2-({2-[(3R)-oxolan-3-yl]ethyl}sulfanyl)propanoic acid as the corresponding acid chloride is achieved by treatment with oxalyl chloride (0.28 mL, 3.22 mmol) and DMF (cat., 0.01 mL) in DCM (15 mL) at room temperature for 3 h. The reaction mixture is concentrated under reduced pressure. The residue is dissolved in THF (5 mL) and concentrated under reduced pressure. This process is repeated. Then the crude acid chloride is dissolved in anhydrous THF (10 mL) and 0.32 mL (1.81 mmol) of N,N-diisopropylethylamine are added followed by 0.17 g (0.66 mmol) of 3-[(3S)-2-methyl-3-(oxan-2-yloxy)butan-2-yl]-1,2-oxazol-5-amine. After complete addition the reaction is heated to 60° C. for 17 h. The reaction is cooled to room temperature and the solvent is removed under reduced pressure. The residue is dissolved in ethyl acetate (20 mL) and washed with saturated aqueous NaHCO3 solution (2×5 mL) and 1M aqueous HCl solution (2×5 mL). The organic layer is dried (Na2SO4) and filtered. The filtrate is concentrated under reduced pressure and the residue purified by column chromatography (silica, eluent heptanes, 30% ethyl acetate) to yield 133 mg of 2-methyl-N-{3-[(3S)-2-methyl-3-(oxan-2-yloxy)butan-2-yl]-1,2-oxazol-5-yl}-2-({2-[(3R)-oxolan-3-yl]ethyl}sulfanyl)propanamide. Yield: 55%; ES-MS: m/z 453 [M−H]; 1H NMR (250 MHz, CHLOROFORM-d) δ ppm approx 1:1 mixture of diastereoisomers: 1.00 (4H, d, J=6.24 Hz), 1.14-1.20 (4H, m), 1.22-1.39 (11H, m), 1.41-1.91 (27H, m), 1.94-2.13 (2H, m), 2.20-2.36 (2H, m), 2.48-2.67 (4H, m), 3.26-3.38 (2 H, m), 3.41-3.55 (2H, m), 3.63-3.98 (12H, m), 4.53-4.59 (1H, m), 4.74 (1H, t, J=3.12 Hz), 6.31 (1H, s), 6.35 (1H, s), 9.50 (2H, s)

reactant | 2-methyl-2-({2-[(3R)-oxolan-3-yl]ethyl}sulfanyl)propanoic acid | 1.61 mmol, 0.35 g | CC(C(=O)O)(C)SCC[C@@H]1COCC1 | C10H18O3S
reactant | oxalyl chloride | 3.22 mmol, 0.28 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-diisopropylethylamine | 1.81 mmol, 0.32 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-[(3S)-2-methyl-3-(oxan-2-yloxy)butan-2-yl]-1,2-oxazol-5-amine | 0.66 mmol, 0.17 g | CC(C)([C@H](C)OC1OCCCC1)C1=NOC(=C1)N | C13H22N2O3
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.01 mL | CN(C)C=O | C3H7NO
product | 2-methyl-N-{3-[(3S)-2-methyl-3-(oxan-2-yloxy)butan-2-yl]-1,2-oxazol-5-yl}-2-({2-[(3R)-oxolan-3-yl]ethyl}sulfanyl)propanamide | 133 mg, Yield: 55% | CC(C(=O)NC1=CC(=NO1)C(C)([C@H](C)OC1OCCCC1)C)(C)SCC[C@@H]1COCC1 | C23H38N2O5S
